* 
* Linear Technology LT1228 op amp model  
* Written: 11-05-1992. Type: Current Feedback Amplifier
* 
* Connections: as per datasheet pinout
*1=gm block output/current feedback amplifier non-inverting input
*2=gm block inverting input
*3=gm block non-inverting input
*4=negative supply
*5=set current
*6=current feedback amplifier output
*7=positive supply
*8=current feedback amplifier inverting input
*
.SUBCKT LT1228 1 2 3 4 5 6 7 8
*
* THE OTA
Q11 5 5 21 QN 10
Q12 21 21 22 QN 10
VC 22 4 DC 0
F1 26 4 VC 0.375
F2 27 4 VC 0.25
F3 28 4 VC 0.375
F4 7 23 VC 1.6
F5 7 24 VC 1.6
VB 7 25 DC 1.4
CE1 23 7 11PF
CE2 24 7 11PF
RE13 23 32 120
RE14 24 33 120
Q13 29 25 32 QPI
Q14 1 25 33 QPI
Q15 23 3 28 QNI 9
Q16 23 3 27 QNI
Q17 23 3 26 QNI
Q18 24 2 26 QNI 9
Q19 24 2 27 QNI
Q20 24 2 28 QNI
VM 29 4 DC 1.4
FM 1 4 VM 1
DM 29 1 DC
C1 1 7 5PF
*
* THE CFA
Q2A 4 1 10 QP 0.5
Q3A 11 10 200 QN
Q4A 11 11 7 QP
Q5A 9 11 7 QP
Q6A 12 11 7 QP
Q7A 4 9 12 QP
Q8A 7 12 13 QN 10
RSCA 13 6 10
IBA 7 10 DC 300U
*
Q2B 7 1 110 QN 0.5
Q3B 111 110 200 QP
Q4B 111 111 4 QN
*
Q5B 9 111 4 QN
Q6B 112 111 4 QN
Q7B 7 9 112 QN
Q8B 4 112 113 QP 10
RSCB 6 113  10
IBB 110 4 DC 300U
*
RC 8 200 20
R9 9 0 201600
D1 9 6 DC
D2 6 9 DC
*
.MODEL DC D
*
.MODEL QNI NPN
*
.MODEL QN NPN (IS=168E-18 BF=150 ISC=40E-18 NC=1 RB=250 RE=8 RC=100
+CJE=0.37P VJE=0.65 MJE=0.33 FC=0.7 CJC=0.8P VJC=0.62 MJC=0.44
+TF=300P
*
.MODEL QPI PNP
*
.MODEL QP PNP (IS=230E-18 BF=150 ISC=113E-18 NC=1 RB=250 RE=8 RC=100
+CJE=0.34P VJE=0.75 MJE=0.40 FC=0.7 CJC=0.8P VJC=0.5 MJC=0.36
+TF=300P
*
.ENDS LT1228
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1993
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *